US07038076B2
Into a 1 L-volume flask equipped with a distillation unit, 144 g of dimethyl fumarate, 279 g of hydroxybutyl vinyl ether, 0.2 g of zinc acetate and 0.3 g of IRGANOX 1010 as a polymerization inhibitor were charged. The mixture was heated to 140° C. in a nitrogen atmosphere and methanol generated as a by-product was distilled off. When methanol reached 70% of the theoretical amount, the pressure inside of the reaction system was gradually reduced to accelerate the distillation of methanol, and by finally reducing the pressure to about 400 Pa, the theoretical amount of methanol and the residual hydroxybutyl vinyl ether were completely distilled off. The reaction solution was cooled to a room temperature and then 297 g of bis(4-vinyloxybutyl) fumarate was obtained.

reactant | dimethyl fumarate | 144 g | C(\C=C\C(=O)OC)(=O)OC | C6H8O4
reactant | hydroxybutyl vinyl ether | 279 g | C(=C)OCCCCO | C6H12O2
catalyst | zinc acetate | 0.2 g | C(C)(=O)[O-].[Zn+2].C(C)(=O)[O-]
catalyst | IRGANOX 1010 | 0.3 g | CC(C)(C)C1=CC(=CC(=C1O)C(C)(C)C)CCC(=O)OCC(COC(=O)CCC2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C)(COC(=O)CCC3=CC(=C(C(=C3)C(C)(C)C)O)C(C)(C)C)COC(=O)CCC4=CC(=C(C(=C4)C(C)(C)C)O)C(C)(C)C | C73H108O12
solvent | methanol | CO | CH4O
product | bis(4-vinyloxybutyl) fumarate | 297 g | C(\C=C\C(=O)OCCCCOC=C)(=O)OCCCCOC=C | C16H24O6
